US07666879B2
B 3-tert-Butyl-5-morpholin-4-ylmethyl-phenylamine
Combine 4-(3-tert-butyl-5-iodo-benzyl)-morpholine (0.785 g, 2.2 mmol), benzophenone imine (0.44 mL, 1.2 equiv.), sodium tert-butoxide (0.29 g, 1.4 equiv.), racemic BINAP (0.061 g, 4.5 mol %), and THF (10 mL). De-gas with nitrogen then add bis(dibenzylideneacetone) palladium (0.037 g, 3 mol %) and heat reaction at 50° C. overnight under nitrogen. In the morning add approximately 4 mL of 5 N HCl (aq) and heat for one hour at 50° C. Let cool to room temperature then dilute with ethyl acetate and make basic with 1 N NaOH (aq). Wash organics with water then aqueous saturated sodium chloride. Dry organics with MgSO4, filter and concentrate in vacuo. Purify on silica gel (4:1 Hexanes:Ethyl Acetate→10% Methanol: DCM) to give product (0.449 g, 83%). MS (ES), m/z 249.3 (M+1).

reactant | 4-(3-tert-butyl-5-iodo-benzyl)-morpholine | 2.2 mmol, 0.785 g | C(C)(C)(C)C=1C=C(CN2CCOCC2)C=C(C1)I | C15H22INO
reactant | benzophenone imine | 0.44 mL, 1.2 equiv. | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium tert-butoxide | 0.29 g, 1.4 equiv. | CC(C)([O-])C.[Na+]
reactant | HCl | 5 N, approximately 4 mL | Cl | ClH
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | BINAP | 0.061 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-tert-Butyl-5-morpholin-4-ylmethyl-phenylamine | 0.449 g, 83% | C(C)(C)(C)C=1C=C(C=C(C1)CN1CCOCC1)N | C15H24N2O
